US08492378B2
4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl methanesulfonate
A suspension of 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenol (351 mg, 1.20 mmol), methanesulfonyl chloride (0.111 mL, 1.44 mmol) and potassium carbonate (332 mg, 2.40 mmol) in N,N-dimethylformamide (5 mL) was stirred at room temperature for 2 hr and at 60° C. overnight. The reaction mixture was diluted with ethyl acetate. The mixture was washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=10/1-1/1) and recrystallized from hexane/ethyl acetate to give the title compound (107 mg, yield 24%) as colorless crystals.

reactant | 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenol | 1.20 mmol, 351 mg | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)O)C1 | C17H12N2O3
reactant | methanesulfonyl chloride | 1.44 mmol, 0.111 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium carbonate | 2.40 mmol, 332 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl methanesulfonate | 107 mg, yield 24% | CS(=O)(=O)OC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C | C18H14N2O5S
